US05574055
(RS)-5-Hydroxymethyl-3-[4-(4-oxo-cyclohexyl)-phenyl]-oxazolidin-2-one
4.9 g (12.9 mmol) of (RS)-5-benzyloxy-3-[4-(4-oxo-cyclohexyl)-phenyl]-oxazolidin-2-one were dissolved in 500 ml of ethanol while heating and, after adding 5% Pd/C, hydrogenated at room temperature. After separating the catalyst the solvent was distilled off and the oil obtained was chromatographed on a 30-fold amount of silica gel. The methylene chloride-ethyl acetate (1:4) eluates were pooled and the solvent was distilled off. 3.2 g of product were obtained from ethyl acetate/hexane. M.p.: 151.5°-152.5°.

reactant | (RS)-5-benzyloxy-3-[4-(4-oxo-cyclohexyl)-phenyl]-oxazolidin-2-one | 12.9 mmol, 4.9 g | C(C1=CC=CC=C1)OC1CN(C(O1)=O)C1=CC=C(C=C1)C1CCC(CC1)=O | C22H23NO4
reactant | ethanol | 500 ml | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | (RS)-5-Hydroxymethyl-3-[4-(4-oxo-cyclohexyl)-phenyl]-oxazolidin-2-one | 3.2 g | OCC1CN(C(O1)=O)C1=CC=C(C=C1)C1CCC(CC1)=O | C16H19NO4
